US07807709B2
D. (3R,4R)-3-({[4-Methyl-3-(3-methoxy-propoxy)benzoyl]-isopropyl-amino}-methyl)-4-cyclopropylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
From (3R,4S)-3-({[4-methyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3 g, 6.29 mmol), cyclopropyl amine (0.395 mL, 6.92 mmol) and NaBHOAc3 (1.87 g, 8.81 mmol) and purification by flash chromatography on silica gel (AcOEt/MeOH 100:0 to 85:15) to give the title compound as colorless oil. TLC, Rf (AcOEt)=0.63. MS (LC-MS): 518.3 [M+H]+; tR (HPLC, Nucleosil C-18HD (4×70 mm, 3 μm), 20-100% CH3CN/H2O/6 min, 100% CH3CN/1.5 min; flow: 1 mL/min): 5.37 min.

reactant | (3R,4S)-3-({[4-methyl-3-(3-methoxy-propoxy)-benzoyl]-isopropyl-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.29 mmol, 3 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)CN(C(C)C)C(C1=CC(=C(C=C1)C)OCCCOC)=O | C26H40N2O6
reactant | cyclopropyl amine | 6.92 mmol, 0.395 mL | C1(CC1)N | C3H7N
solvent | AcOEt MeOH | CCOC(=O)C.CO
product | (3R,4R)-3-({[4-Methyl-3-(3-methoxy-propoxy)benzoyl]-isopropyl-amino}-methyl)-4-cyclopropylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC1CC1)CN(C(C)C)C(C1=CC(=C(C=C1)C)OCCCOC)=O | C29H47N3O5
